US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and pyridin-3-ylamine to give N3-(5-methyl-1H-pyrazol-3-yl)-N1-pyridin-3-yl-isoquinoline-1,3-diamine. LC-MS m/e 317(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | pyridin-3-ylamine | N1=CC(=CC=C1)N | C5H6N2
product | N3-(5-methyl-1H-pyrazol-3-yl)-N1-pyridin-3-yl-isoquinoline-1,3-diamine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)NC=1C=NC=CC1 | C18H16N6
